US08802659B2
methyl 1-((6-((trans)-4-tert-butylcyclohexyloxy)-5-iodonaphthalen-2-yl)methyl)azetidine-3-carboxylate
Methyl 1-((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methyl)azetidine-3-carboxylate (410 mg, 1 mmol) and NIS (247 mg, 1.1 mmol, 2.0 eq.) were dissolved in CH3CN (5 mL). Then CF3COOH (35 mg, 0.3 mmol, 0.3 eq.) was added to the mixture dropwise at 0° C. The mixture was warmed to r.t. and stirred for another 1.5 h. Then the mixture was extracted with EtOAc and the organic layer was concentrated and purified by silica gel chromatography using PE/EA (1/1) as eluent to give product the title compound as a slight red solid (300 mg, 56%). ESI-MS (M+H+): 536.2. 1H NMR (400 MHz, CDCl3) δ: 8.19 (d, 1H), 7.93 (s, 1H), 7.81 (d, 1H), 7.62 (d, 1H), 7.22 (d, 1H), 4.34-4.28 (m, 4H), 3.91-3.67 (m, 1H), 3.80-3.78 (m, 3H), 3.75 (s, 3H), 2.24-2.21 (m, 2H), 1.90-1.88 (m, 2H), 1.62-1.58 (m, 2H), 1.15-1.12 (m, 3H), 0.89 (s, 9H).

reactant | Methyl 1-((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methyl)azetidine-3-carboxylate | 1 mmol, 410 mg | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CC(C1)C(=O)OC | C26H35NO3
reactant | NIS | 1.1 mmol, 247 mg, 2.0 eq. | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | CF3COOH | 0.3 mmol, 35 mg, 0.3 eq. | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | methyl 1-((6-((trans)-4-tert-butylcyclohexyloxy)-5-iodonaphthalen-2-yl)methyl)azetidine-3-carboxylate | 300 mg, 56% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C(=C2C=CC(=CC2=CC1)CN1CC(C1)C(=O)OC)I | C26H34INO3
